US07074798B2
d) 4-[1-(2,2-Dimethylpropionyloxymethyl)-7-(3-methylbut-2-enyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
4-[1,3-Bis(2,2-dimethylpropionyloxymethyl)-7-(3-methylbut-2-enyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (277 mg) was dissolved in a solvent mixture of tetrahydrofuran (3 ml) and methanol (6 ml), sodium hydride (21 mg) was added to the solution, and the mixture was stirred at room temperature for 1 hour and 10 minutes. The reaction mixture was diluted with ethyl acetate, washed with water, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation from the organic layer to give 214 mg of the title compound.

reactant | 4-[1,3-Bis(2,2-dimethylpropionyloxymethyl)-7-(3-methylbut-2-enyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 277 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1CC=C(C)C)=O)COC(C(C)(C)C)=O)=O)COC(C(C)(C)C)=O | C31H48N6O8
reactant | sodium hydride | 21 mg | [H-].[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | 6 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[1-(2,2-Dimethylpropionyloxymethyl)-7-(3-methylbut-2-enyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 214 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2NC(N(C(C2N1CC=C(C)C)=O)COC(C(C)(C)C)=O)=O | C25H38N6O6
